US08975406B2
(R)-tert-Butyl 3-(4-(2-(cyclopropanecarboxamido)pyrazolo[1,5-a]pyridin-4-yl)phenoxy)pyrrolidine-1-carboxylate (0.44 g, 0.95 mmol) was stirred in DCM (10 mL) and TFA (1 mL) at room temperature for 3 h. The reaction mixture was concentrated in vacuo and loaded onto an SCX column in DCM. MeOH (100 mL) was passed through the column and the compound was eluted with (7 N NH3 in MeOH in MeOH) (1:5) (200 mL). The filtrate was concentrated in vacuo to give (R)—N-(4-(4-(pyrrolidin-3-yloxy)phenyl)pyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide which was used in the next step without further purification.

reactant | (R)-tert-Butyl 3-(4-(2-(cyclopropanecarboxamido)pyrazolo[1,5-a]pyridin-4-yl)phenoxy)pyrrolidine-1-carboxylate | 0.95 mmol, 0.44 g | C1(CC1)C(=O)NC1=NN2C(C(=CC=C2)C2=CC=C(O[C@H]3CN(CC3)C(=O)OC(C)(C)C)C=C2)=C1 | C26H30N4O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(4-(pyrrolidin-3-yloxy)phenyl)pyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide | N1C[C@@H](CC1)OC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(C2)NC(=O)C2CC2 | C21H22N4O2
